US05608056
To a solution of pottasium t-butoxide (1.24 g) in N,N-dimethylformamide (15 ml) was dropwise added thioacetic acid (0.85 ml) under ice cooling with stirring. The mixture was stirred at the same temperature for 30 minutes. To the solution of (2S,4R)-1-allyloxycarbonyl-2-(2-oxo-4-methylpiperazin-1-yl) methyl-4-(methanesulfonyloxy)pyrrolidine (3.19 g) in N,N-dimethylformamide (15 ml) was added the mixture obtained above at ambient temperature with stirring. The mixture was stirred at 80°-90° C. for 1.5 hours. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of chloroform and methanol (20:1 v/v) to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-oxo-4-methylpiperazin-1-yl) methylpyrrolidine (3.24 g).

reactant | t-butoxide | 1.24 g | CC(C)([O-])C
reactant | thioacetic acid | 0.85 ml | C(C)(=S)O | C2H4OS
reactant | (2S,4R)-1-allyloxycarbonyl-2-(2-oxo-4-methylpiperazin-1-yl) methyl-4-(methanesulfonyloxy)pyrrolidine | 3.19 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C(CN(CC1)C)=O | C15H25N3O6S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-oxo-4-methylpiperazin-1-yl) methylpyrrolidine | 3.24 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CN1C(CN(CC1)C)=O | C16H25N3O4S
